US06051712
1.47 g (11 mmol) of N-chlorosuccinimide were added at -30° C. to a solution of 1.21 g of benzaldoxime in 10 ml of methylene chloride. After 2 hours a solution of 1.0 g of triethylamine and 1.4 g of (RS)-tetrahydro-2-(2-propynyloxy)-2H-pyran in 5 ml of methylene chloride was added dropwise. The reaction mixture was stirred at room temperature for 5 hours, the solvent was thereafter distilled off and, for purification, the crude product was chromatographed on silica gel using methylene chloride as the eluent. There were obtained 1.8 g of (RS)-3-phenyl-5-(tetrahydro-pyran-2-yloxymethyl)-isoxazole as a colourless liquid; MS: 259 (M)+.

reactant | N-chlorosuccinimide | 11 mmol, 1.47 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | benzaldoxime | 1.21 g | C(C1=CC=CC=C1)=NO | C7H7NO
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | (RS)-tetrahydro-2-(2-propynyloxy)-2H-pyran | 1.4 g | C(C#C)OC1OCCCC1 | C8H12O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (RS)-3-phenyl-5-(tetrahydro-pyran-2-yloxymethyl)-isoxazole | 1.8 g | C1(=CC=CC=C1)C1=NOC(=C1)COC1OCCCC1 | C15H17NO3
